US05521147
By a method analogous to that of Example 1, Step G, 2.5 grams (0.011 mole) of 5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl isocyanate was reacted with ethyl 3-amino-4,4,4-trifluorocrotonate and 0.66 gram (0.012 mole) of sodium hydride (60% in mineral oil) in 150 mL of tetrahydrofuran. The crude reaction product was subjected to column chromatography on silica gel, with 1:2 ethyl acetate:hexane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 3.0 grams of 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl)-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl isocyanate | 0.011 mole, 2.5 grams | ClC1=CC(=C(C2=C1CCCO2)N=C=O)F | C10H7ClFNO2
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | 0.012 mole, 0.66 gram | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran-8-yl)-6-trifluoromethyluracil | 3.0 grams | ClC1=CC(=C(C2=C1CCCO2)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C14H9ClF4N2O3
